US04663453
1-(2-Amino-4-methylphenyl)-5-bromoindoline hydrochloride
To a warm solution of 4-(5-bromo-1-indolinyl)-3-nitrotoluene (10 g, 0.03 mole) in dichloromethane (40 ml) and ethanol (160 ml) was added 1% platinum-on-carbon (2.0 gm). The mixture was shaken under hydrogen (57 psi) for 3.5 hours. The mixture was filtered and concentrated. The residue was dried under vacuum at 55° C. Purification was accomplished by flash chromatography over silica gel (100 g), eluted with a mixture of hexane:dichloromethane (3:1, 2 l and 1:1, 1 l). The fractions containing pure product were pooled and concentrated. The residue was dissolved in ether (250 ml) and added to a methanol/hydrogen chloride solution, and the mixture was stirred at 0° C. for 10 minutes. The precipitate was filtered and dried to afford 4.0 g (39%) of product, mp 195°-200° C. dec.

reactant | 4-(5-bromo-1-indolinyl)-3-nitrotoluene | 0.03 mole, 10 g | BrC=1C=C2CCN(C2=CC1)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C15H13BrN2O2
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | ethanol | 160 ml | C(C)O | C2H6O
catalyst | platinum-on-carbon | 2.0 gm | [Pt] | Pt
product | 1-(2-Amino-4-methylphenyl)-5-bromoindoline hydrochloride | 4.0 g, 39% | Cl.NC1=C(C=CC(=C1)C)N1CCC2=CC(=CC=C12)Br | InChI=1S/C15H15BrN2.ClH/c1-10-2-4-15(13(17)8-10)18-7-6-11-9-12(16)3-5-14(11)18;/h2-5,8-9H,6-7,17H2,1H3;1H
